US07074799B2
Stir 4-chloro-7-(3-trifluoromethyl-pyridin-2-yl)-quinazoline (0.16 mmol) and 4-tert-butyl-aniline (0.32 mmol) in IPA (4 mL) at 80° C. for 6 hours. Cool the mixture and collect the precipitate to obtain (4-tert-Butyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]hydrochloride. Mass spec. 422.2.

reactant | 4-chloro-7-(3-trifluoromethyl-pyridin-2-yl)-quinazoline | 0.16 mmol | ClC1=NC=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F | C14H7ClF3N3
reactant | 4-tert-butyl-aniline | 0.32 mmol | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | IPA | 4 mL | CC(C)O | C3H8O
product | (4-tert-Butyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]hydrochloride | C(C)(C)(C)C1=CC=C(C=C1)[ClH]C1=NC=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F | C24H21ClF3N3
